US09126931B2
8-Hydroxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
4-Bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U5, 325 mg, 0.822 mmol) was added with pyridine hydrochloride salt (3.80 g, 32.89 mmol) and stirred at 160° C. for 28 hr. The reaction solution was poured into water, extracted with ethyl acetate, washed with water, dried over sodium sulfate, and filtered. After concentration under reduced pressure, the title compound was obtained as a crude product.

reactant | 4-Bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.822 mmol, 325 mg | BrC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC)=O)C#N | C20H15BrN2O2
reactant | pyridine hydrochloride salt | 32.89 mmol, 3.80 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 8-Hydroxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | OC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C19H14N2O2
